US06809097B1
A solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride (304 mg, 1 mmol), (prepared as described for the starting material in Example 5), 2-fluoro-5-hydroxy-4-methylaniline (155 mg, 1.1 mmol), (prepared as described for the starting material in Example 1), in 2-pentanol (15 ml) was heated at reflux for 15 hours. The precipitate was collected by filtration, washed with isopropanol and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride (205 mg, 50%).

reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride | 1 mmol, 304 mg | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OCCOC
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 1.1 mmol, 155 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | 2-pentanol | 15 ml | CC(CCC)O | C5H12O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride | 205 mg, 50% | Cl.FC1=C(NC2=CC=NC3=CC(=C(C=C23)OC)OCCOC)C=C(C(=C1)C)O | InChI=1S/C20H21FN2O4.ClH/c1-12-8-14(21)17(10-18(12)24)23-15-4-5-22-16-11-20(27-7-6-25-2)19(26-3)9-13(15)16;/h4-5,8-11,24H,6-7H2,1-3H3,(H,22,23);1H
